US07405231B2
iii) 4-Chloromethyl-2-[2-(4-methylsulfanyl-phenyl)-vinyl]-oxazole
2.00 g (10.3 mmol) 3-(4-methylsulfanyl-phenyl)-acrylamide, 2.63 g (22.0 mmol) dichloro acetone and 60.0 ml xylene were kept at reflux temperature for 3 h with continuous removal of water by use of a Dean-Stark trap (a water separator used in chemical reactions). After removal of solvents in vacuo, the residue was partitioned between ethyl acetate and water. The organic extracts were dried and the solvent was distilled off. The remaining residue was purified by chromatography on silica gel (eluent: heptane/ethyl acetate 1:3). Yield: 1.50 g (55%) 4-Chloromethyl-2-[2-(4-methylsulfanyl-phenyl)-vinyl]-oxazole as a light yellow solid melting at 126-128° C.

reactant | 3-(4-methylsulfanyl-phenyl)-acrylamide | 10.3 mmol, 2.00 g | CSC1=CC=C(C=C1)C=CC(=O)N | C10H11NOS
reactant | dichloro acetone | 22.0 mmol, 2.63 g | ClC(C(C)=O)Cl | C3H4Cl2O
solvent | xylene | 60.0 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-Chloromethyl-2-[2-(4-methylsulfanyl-phenyl)-vinyl]-oxazole | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)SC | C13H12ClNOS
